US06376494B1
Cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2-methoxyphenyl) -piperazin-1-yl]-ethyl}-methyl-amide
To a solution of 0.30 g (0.87 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl}-methyl-amine and 0.25 mL (1.74 mmol) of triethylamine in 10 mL of dichloromethane at 0° C. was added dropwise 0.19 g (1.31 mmol) of cyclohexanecarboxylic acid chloride in 4 mL of dichloromethane. The reaction mixture was allowed to stir under nitrogen overnight at ambient temperature, and was then concentrated on a rotary evaporator, diluted with ethyl acetate and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (dichloromethane/methanol) and then converted to the dihydrochloride salt with ethanolic HCl to yield 0.41 g (89%) of the title compound as a white solid; mp=222-224° C.; MS(+)ESI m/z=456 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(2-methoxyphenyl)-piperazin-1-yl]-ethyl}-methyl-amine | 0.87 mmol, 0.30 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C(C=CC=C1)OC)NC | C21H35N3O
reactant | triethylamine | 1.74 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarboxylic acid chloride | 1.31 mmol, 0.19 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | Cyclohexanecarboxylic acid {(1R)-1-cyclohexylmethyl-2-[4-(2-methoxyphenyl) -piperazin-1-yl]-ethyl}-methyl-amide | 0.41 g, 89% | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=C(C=CC=C1)OC)N(C(=O)C1CCCCC1)C | C28H45N3O2
